*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002
*-- die chiplet6:  metal layers: 2


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
*-- p/g port #: 4/5

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 0.0260901
id_0_0_0_1 nd_1_0_3000_1000 0 0.021783
id_0_0_0_2 nd_1_0_5000_1000 0 0.0246908
id_0_0_0_3 nd_1_0_7000_1000 0 0.00728787
id_0_0_0_4 nd_1_0_9000_1000 0 0.0104664
id_0_0_0_5 nd_1_0_1000_3000 0 0.0341768
id_0_0_0_6 nd_1_0_3000_3000 0 0.0164711
id_0_0_0_7 nd_1_0_5000_3000 0 0.00475901
id_0_0_0_8 nd_1_0_7000_3000 0 0.0285955
id_0_0_0_9 nd_1_0_9000_3000 0 0.0111352
id_0_0_0_10 nd_1_0_1000_5000 0 0.014182
id_0_0_0_11 nd_1_0_3000_5000 0 0.0172799
id_0_0_0_12 nd_1_0_5000_5000 0 0.00542074
id_0_0_0_13 nd_1_0_7000_5000 0 0.0293259
id_0_0_0_14 nd_1_0_9000_5000 0 0.0325201
id_0_0_0_15 nd_1_0_1000_7000 0 0.0354062
id_0_0_0_16 nd_1_0_3000_7000 0 0.0179626
id_0_0_0_17 nd_1_0_5000_7000 0 0.00619333
id_0_0_0_18 nd_1_0_7000_7000 0 0.0300084
id_0_0_0_19 nd_1_0_9000_7000 0 0.0331187
id_0_0_0_20 nd_1_0_1000_9000 0 0.0156244
id_0_0_0_21 nd_1_0_3000_9000 0 0.0392605
id_0_0_0_22 nd_1_0_5000_9000 0 0.0275392
id_0_0_0_23 nd_1_0_7000_9000 0 0.0101556
id_0_0_0_24 nd_1_0_9000_9000 0 0.0338802
is_0_0_0_0 0 ns_1_0_0_0 0.00674053
is_0_0_0_1 0 ns_1_0_2000_0 0.0325028
is_0_0_0_2 0 ns_1_0_4000_0 0.0420763
is_0_0_0_3 0 ns_1_0_6000_0 0.000566549
is_0_0_0_4 0 ns_1_0_8000_0 0.0265546
is_0_0_0_5 0 ns_1_0_0_2000 0.0298079
is_0_0_0_6 0 ns_1_0_2000_2000 0.0331971
is_0_0_0_7 0 ns_1_0_4000_2000 0.0141103
is_0_0_0_8 0 ns_1_0_6000_2000 0.00162328
is_0_0_0_9 0 ns_1_0_8000_2000 0.0272828
is_0_0_0_10 0 ns_1_0_0_4000 0.0304968
is_0_0_0_11 0 ns_1_0_2000_4000 0.034075
is_0_0_0_12 0 ns_1_0_4000_4000 0.0375019
is_0_0_0_13 0 ns_1_0_6000_4000 0.0247491
is_0_0_0_14 0 ns_1_0_8000_4000 0.00572293
is_0_0_0_15 0 ns_1_0_0_6000 0.00888758
is_0_0_0_16 0 ns_1_0_2000_6000 0.0123045
is_0_0_0_17 0 ns_1_0_4000_6000 0.0158141
is_0_0_0_18 0 ns_1_0_6000_6000 0.0252472
is_0_0_0_19 0 ns_1_0_8000_6000 0.00640895
is_0_0_0_20 0 ns_1_0_0_8000 0.0323364
is_0_0_0_21 0 ns_1_0_2000_8000 0.035547
is_0_0_0_22 0 ns_1_0_4000_8000 0.016576
is_0_0_0_23 0 ns_1_0_6000_8000 0.00381659
is_0_0_0_24 0 ns_1_0_8000_8000 0.0293871

*-- intentional decap
cd_decap_0_0_0_0 nd_1_0_1000_1000 0 5.63545e-10
cd_decap_0_0_0_1 nd_1_0_3000_1000 0 4.70512e-10
cd_decap_0_0_0_2 nd_1_0_5000_1000 0 5.33321e-10
cd_decap_0_0_0_3 nd_1_0_7000_1000 0 1.57418e-10
cd_decap_0_0_0_4 nd_1_0_9000_1000 0 2.26074e-10
cd_decap_0_0_0_5 nd_1_0_1000_3000 0 7.38219e-10
cd_decap_0_0_0_6 nd_1_0_3000_3000 0 3.55776e-10
cd_decap_0_0_0_7 nd_1_0_5000_3000 0 1.02795e-10
cd_decap_0_0_0_8 nd_1_0_7000_3000 0 6.17663e-10
cd_decap_0_0_0_9 nd_1_0_9000_3000 0 2.4052e-10
cd_decap_0_0_0_10 nd_1_0_1000_5000 0 3.06331e-10
cd_decap_0_0_0_11 nd_1_0_3000_5000 0 3.73246e-10
cd_decap_0_0_0_12 nd_1_0_5000_5000 0 1.17088e-10
cd_decap_0_0_0_13 nd_1_0_7000_5000 0 6.33439e-10
cd_decap_0_0_0_14 nd_1_0_9000_5000 0 7.02435e-10
cd_decap_0_0_0_15 nd_1_0_1000_7000 0 7.64773e-10
cd_decap_0_0_0_16 nd_1_0_3000_7000 0 3.87992e-10
cd_decap_0_0_0_17 nd_1_0_5000_7000 0 1.33776e-10
cd_decap_0_0_0_18 nd_1_0_7000_7000 0 6.48181e-10
cd_decap_0_0_0_19 nd_1_0_9000_7000 0 7.15363e-10
cd_decap_0_0_0_20 nd_1_0_1000_9000 0 3.37488e-10
cd_decap_0_0_0_21 nd_1_0_3000_9000 0 8.48027e-10
cd_decap_0_0_0_22 nd_1_0_5000_9000 0 5.94848e-10
cd_decap_0_0_0_23 nd_1_0_7000_9000 0 2.19361e-10
cd_decap_0_0_0_24 nd_1_0_9000_9000 0 7.31812e-10
cs_decap_0_0_0_0 ns_1_0_0_0 0 1.45595e-10
cs_decap_0_0_0_1 ns_1_0_2000_0 0 7.02061e-10
cs_decap_0_0_0_2 ns_1_0_4000_0 0 9.08848e-10
cs_decap_0_0_0_3 ns_1_0_6000_0 0 1.22375e-11
cs_decap_0_0_0_4 ns_1_0_8000_0 0 5.73579e-10
cs_decap_0_0_0_5 ns_1_0_0_2000 0 6.43851e-10
cs_decap_0_0_0_6 ns_1_0_2000_2000 0 7.17058e-10
cs_decap_0_0_0_7 ns_1_0_4000_2000 0 3.04782e-10
cs_decap_0_0_0_8 ns_1_0_6000_2000 0 3.50629e-11
cs_decap_0_0_0_9 ns_1_0_8000_2000 0 5.89308e-10
cs_decap_0_0_0_10 ns_1_0_0_4000 0 6.5873e-10
cs_decap_0_0_0_11 ns_1_0_2000_4000 0 7.36019e-10
cs_decap_0_0_0_12 ns_1_0_4000_4000 0 8.10041e-10
cs_decap_0_0_0_13 ns_1_0_6000_4000 0 5.3458e-10
cs_decap_0_0_0_14 ns_1_0_8000_4000 0 1.23615e-10
cs_decap_0_0_0_15 ns_1_0_0_6000 0 1.91972e-10
cs_decap_0_0_0_16 ns_1_0_2000_6000 0 2.65777e-10
cs_decap_0_0_0_17 ns_1_0_4000_6000 0 3.41585e-10
cs_decap_0_0_0_18 ns_1_0_6000_6000 0 5.4534e-10
cs_decap_0_0_0_19 ns_1_0_8000_6000 0 1.38433e-10
cs_decap_0_0_0_20 ns_1_0_0_8000 0 6.98466e-10
cs_decap_0_0_0_21 ns_1_0_2000_8000 0 7.67816e-10
cs_decap_0_0_0_22 ns_1_0_4000_8000 0 3.58043e-10
cs_decap_0_0_0_23 ns_1_0_6000_8000 0 8.24383e-11
cs_decap_0_0_0_24 ns_1_0_8000_8000 0 6.34762e-10

*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_3000_5000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_8000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_5000_3000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_5000_7000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_8000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_7000_5000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_8000_8000  0.001

.ends chiplet6
